US04496572
A solution of 3-methylbenzo[b]thiophene-6-carboxylic acid (3.65 g) in methanol (100 ml) was saturated with hydrogen chloride gas and the solution was heated under reflux for 4 hours, and then evaporated. The residue was dissolved in ether and the solution was washed with water, sodium bicarbonate solution and dried (Na2SO4). Evaporation of the solvent gave 3-methylbenzo[b]thiophene-6-carboxylic acid methyl ester (3.70 g) pure enough for further reaction. A sample crystallized from petrol (b.p. 40°-60°) had m.p. 46°-47° C.

reactant | 3-methylbenzo[b]thiophene-6-carboxylic acid | 3.65 g | CC=1C2=C(SC1)C=C(C=C2)C(=O)O | C10H8O2S
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 100 ml | CO | CH4O
product | 3-methylbenzo[b]thiophene-6-carboxylic acid methyl ester | 3.70 g | COC(=O)C=1C=CC2=C(SC=C2C)C1 | C11H10O2S
